US06716863B2
(ii) (2R)-1-(benzyloxy)-3-(1H-imidazol-2-yl)-2-propanol
To a solution of (2R)-1-(benzyloxy)-3-(1-trityl-1H-imidazol-2-yl)-2-propanol (1.40 g) in acetone (8 ml), 1 N hydrochloric acid (8 ml) was added, followed by stirring at 50° C. for 1 hour. Additionally, 1 N hydrochloric acid (8 ml) was added, followed by stirring at 50° C. for 2 hours. After concentration and addition of water, the reaction mixture was twice washed with diethyl ether. After neutralization with aqueous sodium bicarbonate, the water layer was extracted with ethyl acetate and washed with saline, after which it was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:ethyl acetate-methanol=10:1) to yield the titled compound (424 mg) as a colorless oily substance.

reactant | (2R)-1-(benzyloxy)-3-(1-trityl-1H-imidazol-2-yl)-2-propanol | 1.40 g | C(C1=CC=CC=C1)OC[C@@H](CC=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C32H30N2O2
solvent | acetone | 8 ml | CC(=O)C | C3H6O
solvent | hydrochloric acid | 1 N, 8 ml | Cl | ClH
solvent | hydrochloric acid | 1 N, 8 ml | Cl | ClH
product | (2R)-1-(benzyloxy)-3-(1H-imidazol-2-yl)-2-propanol | 424 mg | C(C1=CC=CC=C1)OC[C@@H](CC=1NC=CN1)O | C13H16N2O2
